US04454338
Synthesis of 6-amidino-2-naphthyl α-methylphenylacetate:
To 50 ml of dried pyridine, were added 3.0 g of α-methylphenylacetic acid and 4.9 g of DCC. The mixture was stirred for 30 minutes under cooling in ice. After adding 5.6 g of 6-amidino-2-naphthol methanesulfonate, while being cooled in ice, the mixture was stirred for one hour, then overnight. The reaction mixture was filtered to collect the precipitate. The precipitate was washed with pyridine and ethyl ether, added to DMF and heated. The insolubles were filtered off and ethyl ether was added to the filtrate to collect the precipitate by filtration. The precipitate was recrystallized from a mixed solvent comprising ethanol and ethyl ether to obtain 1.8 g of a white powder of 6-amidino-2-naphthyl α-methylphenylacetate methanesulfonate.

reactant | α-methylphenylacetic acid | 3.0 g | CC(C(=O)O)C1=CC=CC=C1 | C9H10O2
reactant | DCC | 4.9 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.6 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl α-methylphenylacetate | 1.8 g | CC(C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N)C1=CC=CC=C1 | C20H18N2O2
